US06864390B2
[(1S,3R)-1-Methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester (6.64 g, 24.6 mmol) and trifluoroacetic acid (10 mL) were stirred together in dichloromethane (30 mL) for 17 hours at room temperature. The mixture was carefully poured into aqueous sodium carbonate and extracted with ethyl acetate (200 mL). The aqueous was acidified to pH 1 with concentrated hydrochloric acid and re-extracted with ethyl acetate (3×200 mL), dried (MgSO4), and concentrated in vacuo. The residue was purified by chromatography (silica gel, eluting with a gradient of heptane to 1:1 heptane:ethyl acetate) to give 5.26 g (100%) of [(1R,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid;

reactant | [(1S,3R)-1-Methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid tert-butyl ester | 24.6 mmol, 6.64 g | C(C)(C)(C)OC(C[C@@]1(C[C@@H](CC1)C)CC(=O)OC)=O | C15H26O4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | [(1R,3R)-1-methoxycarbonylmethyl-3-methyl-cyclopentyl]-acetic acid | 5.26 g, 100% | COC(=O)C[C@]1(C[C@@H](CC1)C)CC(=O)O | C11H18O4
